US09376443B2
2-Bromomethyl-6-(tetrahydrofuran-3-ylmethoxymethyl)pyridine
Prepared from 2,6-bis(bromomethyl)pyridine and (RS)-tetrahydrofuran-3-methanol by the alkylation method described for the final step of Example 32 to give the title compound (37%); NMR δH (400 MHz, CDCl3) 7.70 (1H, t, J 8.0 Hz), 7.37-7.33 (2H, m), 4.63 (2H, s), 4.53 (2H, s), 3.89-3.82 (2H, m), 3.77-3.72 (1H, m), 3.65-3.61 (1H, m), 3.56-3.46 (1H, m), 2.66-2.56 (1H, m), 2.09-1.99 (1H, m), 1.69-1.60 (1H, m); (M+H)+ 286, 288.

reactant | 2,6-bis(bromomethyl)pyridine | BrCC1=NC(=CC=C1)CBr | C7H7Br2N
reactant | (RS)-tetrahydrofuran-3-methanol | O1CC(CC1)CO | C5H10O2
product | 2-Bromomethyl-6-(tetrahydrofuran-3-ylmethoxymethyl)pyridine | 37% | BrCC1=NC(=CC=C1)COCC1COCC1 | C12H16BrNO2
